US08877760B2
(R)-5-(1-amino-3-cyclopropyl-1-oxoprop an-2-ylamino)-3-(thieno[2,3-b]pyridin-3-ylamino)pyrazine-2-carboxamide
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-cyclopropylpropanamide (78 mg, 0.293 mmol), thieno[2,3-b]pyridin-3-amine (60 mg, 0.400 mmol), K2CO3 (70 mg, 0.507 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 3 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(5-cyano-6-(thieno[2,3-b]pyridin-3-ylamino)pyrazin-2-ylamino)-3-cyclopropylpropanamide (33 mg). The compound (R)-2-(5-cyano-6-(thieno[2,3-b]pyridin-3-ylamino)pyrazin-2-ylamino)-3-cyclopropylpropanamide (33 mg, 0.087 mmol) was dissolved in EtOH (2 mL) and DMSO (1 mL), aq. 1N NaOH (1.0 mL) and aq. H2O2 (30%, 1.0 mL) were added. The mixture was stirred at room temperature for 30 min. HOAc (0.5 mL) was added. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (34 mg). MS 398.2 (M+H); UV 203.6, 224.8, 262.1, 294.1, 357.3 nm; t 0.532 min.

reactant | (R)-2-(5-cyano-6-(thieno[2,3-b]pyridin-3-ylamino)pyrazin-2-ylamino)-3-cyclopropylpropanamide | 0.087 mmol, 33 mg | C(#N)C=1N=CC(=NC1NC1=CSC2=NC=CC=C21)N[C@@H](C(=O)N)CC2CC2 | C18H17N7OS
reactant | NaOH | 1N, 1.0 mL | [OH-].[Na+]
reactant | H2O2 | 1.0 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (R)-5-(1-amino-3-cyclopropyl-1-oxoprop an-2-ylamino)-3-(thieno[2,3-b]pyridin-3-ylamino)pyrazine-2-carboxamide | 34 mg | NC([C@@H](CC1CC1)NC=1N=C(C(=NC1)C(=O)N)NC1=CSC2=NC=CC=C21)=O | C18H19N7O2S
